US04461896
(±) 1-(3-Acetylthio-2-acetylthiomethyl-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic Acid
A solution of (±)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid hydrochloride (14.52 g) in pyridine (150 ml) was treated dropwise with 3-acetylthio-2-(acetylthiomethyl)propanoyl chloride with vigorous stirring. After stirring overnight at room temperature, the mixture was added to ice (300 g) and the pH was adjusted to 2.5 with concentrated hydrochloric acid. The mixture was extracted with ether and the ether extract dried over sodium sulfate and evaporated to a syrup. This (±) 1-(3-acetylthio-2-acetylthiomethyl-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid was further purified by column chromatography (silica gel, toluene:ethyl acetate:acetic acid, 6.5:3:0.5); yield 2.5 g, m.p. 149°-151°.

reactant | (±)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid hydrochloride | 14.52 g | Cl.N1C(CCC2=CC=CC=C12)C(=O)O
reactant | 3-acetylthio-2-(acetylthiomethyl)propanoyl chloride | C(C)(=O)SCC(C(=O)Cl)CSC(C)=O | C8H11ClO3S2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | (±) 1-(3-Acetylthio-2-acetylthiomethyl-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic Acid | C(C)(=O)SCC(C(=O)N1C(CCC2=CC=CC=C12)C(=O)O)CSC(C)=O | C18H21NO5S2
